Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.96017497072
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.6590251617
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.84544935153
[H:1][C:2]([H:3])=[C:4]=[C:7]([O:6][O:5])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]1[O:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11],-0.553316938522
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.12315526448
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])([H:6])=[C:7][H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[O:12][H:13],-2.35984705025
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-3.93143917524
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.45204899887
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.94898737775
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.89647911574
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1],5.77480729041
[H:1].[O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-3.69829459899
[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-4.84115007367
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[O:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10],-7.9843871421
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[O:8][C:9]([H:10])[H:11],-0.563884048241
[O:1]=[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],8.07340087672
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.36622963698
[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-6.74294860403
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8],1.75503685746
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],1.52680747532
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.48367011206
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],3.91188381107
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],-4.587463109680001
[C:8][O:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-7.1230932744
[O:1]=[C:2]1[C:3]([O:4][H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@@:6]([C:3][O:4][H:5])([H:7])[C:8]([H:9])([H:10])[H:11],1.10802551379
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-2.03087600565
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.6444320009399995
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],3.72358600257
